US05891876
Synthesis of 1-(1,4-benzodioxan-5-ylcarbonyl)-1,2,3,6-tetrahydropyridine (I)
1,4-benzodioxan-6-carboxylic acid (3.0 g; 16.7 mmol) was suspended in 40 mL of dichloromethane. The acid dissolved upon addition of 3.7 g (2.2 equivalents) of triethylamine. Addition of 2.0 g of pivaloyl chloride was exothermic, and produced a dense precipitate. The mixture was stirred at room temperature for about 20 minutes, then 1.52 g of 1,2,3,6-tetrahydropyridine was slowly added.

reactant | 1,4-benzodioxan-6-carboxylic acid | 16.7 mmol, 3.0 g | O1CCOC2=C1C=CC(=C2)C(=O)O | C9H8O4
reactant | triethylamine | 3.7 g, 2.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 2.0 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 1,2,3,6-tetrahydropyridine | 1.52 g | N1CCC=CC1 | C5H9N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-(1,4-benzodioxan-5-ylcarbonyl)-1,2,3,6-tetrahydropyridine | O1CCOC2=C1C=CC=C2C(=O)N2CCC=CC2 | C14H15NO3
